US08044069B2
3,3-diphenyl-1-(3-{3-[4-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-5-yl}propyl)pyrrolidin-2-one
A suspension of (Z)—N-hydroxy-4-(trifluoromethyl)benzimidamide (0.233 g, 1.143 mmol), 4-(2-oxo-3,3-diphenylpyrrolidin-1-yl)butanoic acid (0.336 g, 1.039 mmol) and N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride (0.299 g, 1.559 mmol) were stirred together in dichloroethane (5 mL) for 3 hours then heated to 85° C. for 18 hours. The reaction was cooled and concentrated. The reaction was loaded onto a GraceResolv™ 40 g silica gel column (Grace Davison Discovery Sciences) and the product eluted with a gradient of 5% ethyl acetate/hexanes to 4% ethyl acetate/hexanes (Flow=40 mL/minute) over 40 minutes to give the title compound. 1H NMR (300 MHz, CDCl3) δ 8.17 (d, J=8.0, 2H), 7.73 (d, J=8.2, 2H), 7.38-7.20 (m, 10H), 3.56 (t, J=7.0, 2H), 3.41 (t, J=6.4, 2H), 2.92 (t, J=7.6, 2H), 2.77 (t, J=6.4, 2H), 2.22-2.09 (m, 2H); MS (ESI+) m/z 492.1 (M+H)+.

reactant | (Z)—N-hydroxy-4-(trifluoromethyl)benzimidamide | 1.143 mmol, 0.233 g | ON\C(\C1=CC=C(C=C1)C(F)(F)F)=N/[H] | C8H7F3N2O
reactant | 4-(2-oxo-3,3-diphenylpyrrolidin-1-yl)butanoic acid | 1.039 mmol, 0.336 g | O=C1N(CCC1(C1=CC=CC=C1)C1=CC=CC=C1)CCCC(=O)O | C20H21NO3
reactant | N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride | 1.559 mmol, 0.299 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
product | 3,3-diphenyl-1-(3-{3-[4-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-5-yl}propyl)pyrrolidin-2-one | C1(=CC=CC=C1)C1(C(N(CC1)CCCC1=NC(=NO1)C1=CC=C(C=C1)C(F)(F)F)=O)C1=CC=CC=C1 | C28H24F3N3O2
